US08227458B2
trans-4-(3-Methoxy-phenoxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(3-methoxy-phenoxy)-cyclohexanecarboxylic acid methyl ester (0.20 g, 0.75 mmol) and hydrazine hydrate (0.035 ml, 0.73 mmol) was heated at 120° C. for 22 h. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (50 ml) and 1 M aqueous sodium hydroxide solution (50 ml). The organic layer was separated, dried over anhydrous sodium sulfate and concentrated in vacuo to give the crude title compound (0.18 g, 92%) as white solid, which was used in the next step without further purification.

reactant | trans-4-(3-methoxy-phenoxy)-cyclohexanecarboxylic acid methyl ester | 0.75 mmol, 0.20 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=CC(=CC=C1)OC | C15H20O4
reactant | hydrazine hydrate | 0.73 mmol, 0.035 ml | O.NN
product | trans-4-(3-Methoxy-phenoxy)-cyclohexanecarboxylic acid hydrazide | 0.18 g, 92% | COC=1C=C(O[C@@H]2CC[C@H](CC2)C(=O)NN)C=CC1 | C14H20N2O3
